US08022223B2
A 100 mL round-bottomed flask was charged with tert-butyl 4-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate (1.6 g, 3.0 mmol), N-ethyl-N-isopropylpropan-2-amine (1.0 mL, 6.0 mmol), Xantphos (0.087 g, 0.15 mmol), and Dioxane (25 mL). Nitrogen was bubbled through the solution for 10 minutes. Methyl 3-mercaptopropanoate (0.40 mL, 3.6 mmol) and Pd2dba3 (0.068 g, 0.075 mmol) were added and the reaction was plunged into a 95° C. oil bath for 6 hours. The reaction was cooled to room temperature and the solids filtered through celite and concentrated. The residue was purified on silica (30% EtOAc in hexanes) to afford tert-butyl 4-(2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate (1.4 g, 81.48% yield) as a white foam.

reactant | tert-butyl 4-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 3.0 mmol, 1.6 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1 | C24H27BrN4O3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 6.0 mmol, 1.0 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Methyl 3-mercaptopropanoate | 3.6 mmol, 0.40 mL | SCCC(=O)OC | C4H8O2S
catalyst | Pd2dba3 | 0.075 mmol, 0.068 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.15 mmol, 0.087 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | Dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)piperidine-1-carboxylate | 1.4 g, 81.48% yield | COC(CCSC=1C=C(C(=NC1)NC=1SC=C(N1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1)=O | C28H34N4O5S2
